US04514416
Synthesis of 4-amidino-2-methoxyphenyl isovalerate
Into 40 ml of anhydrous pyridine, was dissolved 1.5 g of isovaleric acid. To the solution, while being cooled in ice, was added 3.7 g of DCC and the resulting mixture was stirred for 30 minutes. After addition of 3.9 g of 4-amidino-2-methoxyphenol methanesulfonate, the mixture was stirred overnight at room temperature. The precipitate which was formed was separated by filtration and washed with pyridine. Ethyl ether was added to the filtrate to precipitate colorless crystals. The crystals were washed with ethyl ether, dissolved in DMF, and recrystallized by adding ethyl ether. The crystals were further purified by recrystallizing from an ethanol-ethyl ether mixture to obtain 3.4 g of colorless flaky crystals of 4-amidino-2-methoxyphenyl isovalerate methanesulfonate.

reactant | isovaleric acid | 1.5 g | C(CC(C)C)(=O)O | C5H10O2
reactant | DCC | 3.7 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | 4-amidino-2-methoxyphenol methanesulfonate | 3.9 g | CS(=O)(=O)OC1=C(C=C(C=C1)C(N)=N)OC | C9H12N2O4S
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
product | 4-amidino-2-methoxyphenyl isovalerate | 3.4 g | C(CC(C)C)(=O)OC1=C(C=C(C=C1)C(N)=N)OC | C13H18N2O3
